US07893099B2
Step 7: (1R,2R)-2-(4-Chloro-phenoxymethyl)-4-methanesulfonyloxy-cyclopentanecarboxylic acid ethyl ester (epimeric mixture)
To a cold (ice bath) solution of (1R,2R)-2-(4-Chloro-phenoxymethyl)-4-hydroxy-cyclopentanecarboxylic acid ethyl ester (epimeric mixture, 312 mg) and triethylamine (528 mg) in dichloromethane (6 mL) was added methanesulfonyl chloride (580 mg). The reaction mixture was stirred 36 h at room temperature then hydrochloric acid (1N) was added. The reaction mixture was extracted with dichloromethane. The combined organic layers were washed with an aqueous half-saturated solution of sodium carbonate and half saturated brine then dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel with a gradient of cyclohexane/ethylacetate (3:1 to 3:1 v/v) as eluant to afford the title compound (0.380 g, 97%) as a light yellow oil. MS (EI): 377.1 (M+H)+.

reactant | (1R,2R)-2-(4-Chloro-phenoxymethyl)-4-hydroxy-cyclopentanecarboxylic acid ethyl ester | 312 mg | C(C)OC(=O)[C@H]1[C@@H](CC(C1)O)COC1=CC=C(C=C1)Cl | C15H19ClO4
reactant | triethylamine | 528 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 580 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (1R,2R)-2-(4-Chloro-phenoxymethyl)-4-methanesulfonyloxy-cyclopentanecarboxylic acid ethyl ester | 0.380 g, 97% | C(C)OC(=O)[C@H]1[C@@H](CC(C1)OS(=O)(=O)C)COC1=CC=C(C=C1)Cl | C16H21ClO6S
